US08748624B2
STEP B: N-(2-bromo-4-(trifluoromethyl)benzyl)-2′,4′-dichloro-[1,1′-biphenyl]-4-amine
Solid NaBH(OAc)3 (39 mg, 1.9 mmol) was added to a DCE solution (3 mL) of 2-bromo-4-(trifluoromethyl)benzaldehyde (235 mg, 0.9 mmol), 2′,4′-dichloro-[1,1-biphenyl]-4-amine (233 g, 1.0 mmol), and AcOH (0.21 mL, 3.7 mmol) and the resulting mixture was stirred at room temperature. After 16 h the resulting mixture diluted with EtOAc washed with water and brine, dried (Na2SO4), dry-packed onto silica gel and purified via column chromatography to yield the title compound.

reactant | NaBH(OAc)3 | 1.9 mmol, 39 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | 2-bromo-4-(trifluoromethyl)benzaldehyde | 0.9 mmol, 235 mg | BrC1=C(C=O)C=CC(=C1)C(F)(F)F | C8H4BrF3O
reactant | 2′,4′-dichloro-[1,1-biphenyl]-4-amine | 1.0 mmol, 233 g | ClC1=C(C=CC(=C1)Cl)C1=CC=C(C=C1)N | C12H9Cl2N
reactant | AcOH | 3.7 mmol, 0.21 mL | CC(=O)O | C2H4O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | DCE | 3 mL | ClCCCl | C2H4Cl2
product | N-(2-bromo-4-(trifluoromethyl)benzyl)-2′,4′-dichloro-[1,1′-biphenyl]-4-amine | BrC1=C(CNC2=CC=C(C=C2)C2=C(C=C(C=C2)Cl)Cl)C=CC(=C1)C(F)(F)F | C20H13BrCl2F3N
